US04971982
4.42 g of 1-(2-hydroxyphenyl)-3-methyl-1-(2-pyridyl)-2-buten-1-ol were dissolved in 70 ml of diethylene glycol dimethyl ether and heated at 150° C. for 2 hours. The mixture was allowed to cool to room temperature, the solvent was removed by evaporation and the residue was partitioned between ethyl acetate and sodium chloride solution. The organic phase was dried over sodium sulphate and evaporated. The residue was chromatographed on silica gel using ethyl acetate/petroleum ether (1:4) for the elution to give 2.4 g of 2,2-dimethyl-4-(2-pyridyl)-2H-1-benzopyran of melting point 80-82° C.

reactant | 1-(2-hydroxyphenyl)-3-methyl-1-(2-pyridyl)-2-buten-1-ol | 4.42 g | OC1=C(C=CC=C1)C(C=C(C)C)(O)C1=NC=CC=C1 | C16H17NO2
solvent | diethylene glycol dimethyl ether | 70 ml | COCCOCCOC | C6H14O3
product | 2,2-dimethyl-4-(2-pyridyl)-2H-1-benzopyran | 2.4 g | CC1(OC2=C(C(=C1)C1=NC=CC=C1)C=CC=C2)C | C16H15NO
